US05688943
67A (3RS)-3-Benzyloxycarbonylamino-1-tert-butylcarbonylmethyl-7-chloro-2,3-dihydro-5-phenyl-1H-1,4-benzodiazepin-2-one (Scheme 1, step (i))
This was prepared from (3RS)-3-benzyloxycarbonylamino-7-chloro-2,3-dihydro-5-phenyl-1H-1,4-benzodiazepin-2-one (640 mg, 1.46 mmol, prepared by analogy with the Bock benzodiazepine), sodium hydride (62 mg of an 80% dispersion in oil, 2.04 mmol) and 1-bromopinacolone (537 mg, 3 mmol) following the method of Example 1B. The crude product was purified by flash chromatography on silica gel (eluant EtOAc:hexane fr 30:70 v/v) to afford the title compound (700 mg, 93%).

reactant | (3RS)-3-benzyloxycarbonylamino-7-chloro-2,3-dihydro-5-phenyl-1H-1,4-benzodiazepin-2-one | C(C1=CC=CC=C1)OC(=O)NC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=C(C=C2)Cl)=O | C23H18ClN3O3
reactant | benzodiazepine | N1N=CC=CC2=C1C=CC=C2 | C9H8N2
reactant | sodium hydride | [H-].[Na+]
reactant | 1-bromopinacolone | 3 mmol, 537 mg | BrCC(C(C)(C)C)=O | C6H11BrO
product | (3RS)-3-Benzyloxycarbonylamino-1-tert-butylcarbonylmethyl-7-chloro-2,3-dihydro-5-phenyl-1H-1,4-benzodiazepin-2-one | 700 mg, 93% | C(C1=CC=CC=C1)OC(=O)NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=C(C=C2)Cl)CC(=O)C(C)(C)C)=O | C29H28ClN3O4
